US08431563B2
A 500 mL round-bottomed flask was charged with (S)-2-methylpiperazine (10.23 g, 102 mmol, Sigma-Aldrich, St. Louis, Mo.) and 100 mL of CH2Cl2. After cooling to 0° C., 2-thiophenesulfonyl chloride (18.65 g, 102 mmol, Sigma-Aldrich, St. Louis, Mo.) was added. This mixture was stirred at 0° C. for 15 min then diluted with water (100 mL). The layers were separated and the organics were dried (MgSO4) and concentrated to give an oil. To this oil was added 300 mL of EtOAc and 28 mL of 4 M HCl in dioxane. The resulting white precipitate was collected by filtration to give (S)-2-methyl-4-(2-thiophenylsulfonyl)piperazine hydrochloride (26 g).

reactant | (S)-2-methylpiperazine | 102 mmol, 10.23 g | C[C@@H]1NCCNC1 | C5H12N2
reactant | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
reactant | 2-thiophenesulfonyl chloride | 102 mmol, 18.65 g | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
reactant | HCl | 4 M, 28 mL | Cl | ClH
solvent | water | 100 mL | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
product | (S)-2-methyl-4-(2-thiophenylsulfonyl)piperazine hydrochloride | 26 g | Cl.C[C@@H]1NCCN(C1)S(=O)(=O)C=1SC=CC1 | InChI=1S/C9H14N2O2S2.ClH/c1-8-7-11(5-4-10-8)15(12,13)9-3-2-6-14-9;/h2-3,6,8,10H,4-5,7H2,1H3;1H/t8-;/m0./s1
